US20010027196A1
To a stirred solution of 15.7 g (75.3 mmol) 2-amino-6-chloro-5-nitro-3H-pyrimidin-4-one in 300 ml dioxane and 100 ml water at room temperature were added 8.40 g (75.0 mmol) 2-furylboronic acid, 8.70 g (7.53 mmol) tetrakis(triphenylphosphine)palladium(O) and 150 ml (300 mmol) 2M aqueous sodium carbonate solution. The reaction mixture was heated at reflux for 7 h, then concentrated in vacuo. The residue was resuspended in acetone and the insoluble material collected by filtration. This solid material was then dissolved in 1.2 1 water and acidified to pH 4-5 with 25% hydrochloric acid. The resulting crystals were collected by filtration and washed with water. After drying in vacuo they were additionally washed with dichloromethane to afford 7.33 g (44%) 2-amino-6-furan-2-yl-5-nitro-3H-pyrimidin-4-one as a yellow crystalline solid. ES-MS m/e (%): 221 ([M—H]−, 100).

reactant | 2-amino-6-chloro-5-nitro-3H-pyrimidin-4-one | 75.3 mmol, 15.7 g | NC1=NC(=C(C(N1)=O)[N+](=O)[O-])Cl | C4H3ClN4O3
reactant | 2-furylboronic acid | 75.0 mmol, 8.40 g | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | sodium carbonate | 300 mmol, 2M, 150 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
solvent | water | 100 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(O) | 7.53 mmol, 8.70 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | 2-amino-6-furan-2-yl-5-nitro-3H-pyrimidin-4-one | 7.33 g, 44% | NC1=NC(=C(C(N1)=O)[N+](=O)[O-])C=1OC=CC1 | C8H6N4O4
